US08431575B2
To a stirring solution of 4-[6-Butyl-5-(4-cyclohexyloxy-3-oxazol-2-yl-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.08 g, 0.13 mmol) in DCM, 2.0 mL of 4.0 M HCl in dioxane was added and stirring continued for 30 min. Solvent evaporated, resulting solid was washed with ether, dried to get 3-butyl-4-(4-cyclohexyloxy-3-oxazol-2-yl-phenyl)-6-(piperidin-4-yloxy)-pyridazine dihydrochloride salt (60 mg)

reactant | 4-[6-Butyl-5-(4-cyclohexyloxy-3-oxazol-2-yl-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.13 mmol, 0.08 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC(=C(C=C1)OC1CCCCC1)C=1OC=CN1)CCCC | C33H44N4O5
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | HCl | 4.0 M, 2.0 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-butyl-4-(4-cyclohexyloxy-3-oxazol-2-yl-phenyl)-6-(piperidin-4-yloxy)-pyridazine dihydrochloride salt | 60 mg | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC(=C(C=C1)OC1CCCCC1)C=1OC=CN1)OC1CCNCC1 | InChI=1S/C28H36N4O3.2ClH/c1-2-3-9-25-23(19-27(32-31-25)35-22-12-14-29-15-13-22)20-10-11-26(34-21-7-5-4-6-8-21)24(18-20)28-30-16-17-33-28;;/h10-11,16-19,21-22,29H,2-9,12-15H2,1H3;2*1H
